US07276539B2
(iv) Methyl 2-chloro-3-[4-(2-{4-[(methylsulfonyl)oxy]phenoxy}ethyl)phenyl]propanoate
Methyl 2-chloro-3-{4-[2-(4-hydroxyphenoxy)ethyl]phenyl}propanoate (334 mg, 1.0 mmol) and triethylamine (303 mg, 3.0 mmol) was dissolved in 20 ml dichlormethane and cooled to −20° C. under nitrogen atmosphere. Methanesulfonyl chloride (114 mg, 1.0 mmol) was added dropwise. The mixture was allowed to reach room temperature. After 2 hours dichlormethane was added, the mixture was washed (water, brine), dried (Na2SO4) and evaporated under reduced pressure to yield 394 mg pure product (yield 96%).

reactant | Methyl 2-chloro-3-{4-[2-(4-hydroxyphenoxy)ethyl]phenyl}propanoate | 1.0 mmol, 334 mg | ClC(C(=O)OC)CC1=CC=C(C=C1)CCOC1=CC=C(C=C1)O | C18H19ClO4
reactant | triethylamine | 3.0 mmol, 303 mg | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 1.0 mmol, 114 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichlormethane | 20 ml | ClCCl | CH2Cl2
product | Methyl 2-chloro-3-[4-(2-{4-[(methylsulfonyl)oxy]phenoxy}ethyl)phenyl]propanoate | 394 mg, yield 96% | ClC(C(=O)OC)CC1=CC=C(C=C1)CCOC1=CC=C(C=C1)OS(=O)(=O)C | C19H21ClO6S
